US06884774B2
A mixture of 7-bromo-1-heptanol (25 g) and sodiummethoxide, 28% solution in methanol (37 ml) in methanol (250 ml) was stirred for 7 hours at 90° C. After being cooled to room temperature, the solvent was evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of dichloromethane and methanol (100:1→25:1). The eluted fractions containing the desired product were collected and evaporated in vacuo to give 7-methoxy-1-heptanol (18.2 g).

reactant | 7-bromo-1-heptanol | 25 g | BrCCCCCCCO | C7H15BrO
reactant | sodiummethoxide | C[O-].[Na+]
solvent | methanol | 37 ml | CO | CH4O
solvent | methanol | 250 ml | CO | CH4O
product | 7-methoxy-1-heptanol | 18.2 g | COCCCCCCCO | C8H18O2
